US04360674
5-Bromo-1-methyl-2-[2-(4-phenylpiperidinyl)ethyl]-1H-naphth[1,2-d]imidazole
The compound of the title is prepared by condensing 5-bromo-2-(2-chloroethyl)-1-methyl-1H-naphth[1,2-d]imidazole hydrochloride with 4-phenylpiperidine according to the method described in the foregoing example. M.p. 182°-84° C.

reactant | 5-bromo-2-(2-chloroethyl)-1-methyl-1H-naphth[1,2-d]imidazole hydrochloride | Cl.BrC1=CC2=C(N(C(=N2)CCCl)C)C2=CC=CC=C12
reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
product | 5-Bromo-1-methyl-2-[2-(4-phenylpiperidinyl)ethyl]-1H-naphth[1,2-d]imidazole | BrC1=CC2=C(N(C(=N2)CCN2CCC(CC2)C2=CC=CC=C2)C)C2=CC=CC=C12 | C25H26BrN3
